US04451473
10.18 g of 3,7-di-n-butyl-3,7-diazabicyclo[3.3.1]nonane-9-ol are reacted with 7.7 g of 4-chloro-benzoyl chloride as described in Example 8 to obtain 3,7-di-n-butyl-9-(4'-chlorobenzoyloxy)-3,7-diazabicyclo[3.3.1]nonane, which is converted into its fumarate. The salt, melting at 180°-181° C., is obtained with a yield of 57.5%.

reactant | 3,7-di-n-butyl-3,7-diazabicyclo[3.3.1]nonane-9-ol | 10.18 g | C(CCC)N1CC2CN(CC(C1)C2O)CCCC | C15H30N2O
reactant | 4-chloro-benzoyl chloride | 7.7 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 3,7-di-n-butyl-9-(4'-chlorobenzoyloxy)-3,7-diazabicyclo[3.3.1]nonane | yield of 57.5% | C(CCC)N1CC2CN(CC(C1)C2OC(C2=CC=C(C=C2)Cl)=O)CCCC | C22H33ClN2O2
